US08703805B2
To a solution of 1-(2-chloro-phenyl)-5-[5-(3-methanesulfonyl-phenyl)-thiophen-2-yl]-1H-pyrazole-3-carboxylic acid methyl ester (5.8 g, 123 mmol) in MeOH (50 mL) was added aqueous NaOH (4 N, 25 mL) and the mixture was refluxed for 2 h. After cooling to 20° C., solvent was removed. Water was added to dissolve the crude and then the solution was acidified with acetic acid. Solid was collected by filtration and washed with water and dried under high vacuum to give 1-(2-chlorophenyl)-5-{5-[3-(methylsulfonyl)phenyl]-2-thienyl}-1H-pyrazole-3-carboxylic acid (5.1 g). MS(ES): 459 [M+H]+.

reactant | 1-(2-chloro-phenyl)-5-[5-(3-methanesulfonyl-phenyl)-thiophen-2-yl]-1H-pyrazole-3-carboxylic acid methyl ester | 123 mmol, 5.8 g | COC(=O)C1=NN(C(=C1)C=1SC(=CC1)C1=CC(=CC=C1)S(=O)(=O)C)C1=C(C=CC=C1)Cl | C22H17ClN2O4S2
reactant | NaOH | 4 N, 25 mL | [OH-].[Na+]
solvent | MeOH | 50 mL | CO | CH4O
product | 1-(2-chlorophenyl)-5-{5-[3-(methylsulfonyl)phenyl]-2-thienyl}-1H-pyrazole-3-carboxylic acid | 5.1 g | ClC1=C(C=CC=C1)N1N=C(C=C1C=1SC(=CC1)C1=CC(=CC=C1)S(=O)(=O)C)C(=O)O | C21H15ClN2O4S2
